US07737136B2
2-[(2-Amino-4-chlorophenyl)amino]benzoic Acid (Structure 71 of Scheme XVI)
To a solution of 2-[(4-chloro-2-nitrophenyl)amino]benzoic acid (12.8 g, 43.7 mmol) in ethyl acetate (300 mL) was added platinum on sulfide coal 5%. The reaction mixture was hydrogenated at 2 bar for 5 h. After filtration through dicalite, washing with ethyl acetate and removal of the solvent under reduced pressure the title compound (11.8 g, 100%) was obtained.

reactant | 2-[(4-chloro-2-nitrophenyl)amino]benzoic acid | 43.7 mmol, 12.8 g | ClC1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C13H9ClN2O4
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum | [Pt] | Pt
product | 2-[(2-Amino-4-chlorophenyl)amino]benzoic Acid | NC1=C(C=CC(=C1)Cl)NC1=C(C(=O)O)C=CC=C1 | C13H11ClN2O2
